US09227975B2
To a methanol (1 mL) solution of (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)piperidine-1-carboxamide (4.9 mg, 0.011 mmol) was added HCl as a solution is dioxane (30 μL). After 30 minutes, the reaction was concentrated to provide (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)piperidine-1-carboxamide hydrochloride (4.2 mg, 0.0091 mmol, 79% yield) as a yellow solid. MS (apci) m/z=427.4 (M+H).

reactant | methanol | 1 mL | CO | CH4O
reactant | (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)piperidine-1-carboxamide | 0.011 mmol, 4.9 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)NC(=O)N2CCCCC2 | C22H24F2N6O
reactant | HCl | Cl | ClH
solvent | dioxane | 30 μL | O1CCOCC1 | C4H8O2
product | (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)piperidine-1-carboxamide hydrochloride | 0.0091 mmol, 4.2 mg, 79% yield | Cl.FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)NC(=O)N2CCCCC2 | InChI=1S/C22H24F2N6O.ClH/c23-15-6-7-17(24)16(13-15)18-5-4-12-29(18)20-9-8-19-25-14-21(30(19)27-20)26-22(31)28-10-2-1-3-11-28;/h6-9,13-14,18H,1-5,10-12H2,(H,26,31);1H/t18-;/m1./s1
